US06869954B2
Preparation of 2-cinnamyl-6-(4-fluoro-3-methyl-phenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-cinnamyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as a yellow oil (yield: 80.1%).

reactant | 2-cinnamyl-6-(4-fluoro-3-methylphenyl)-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | C(C=CC1=CC=CC=C1)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC(=C(C=C1)F)C | C22H21FN2O4S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 2-cinnamyl-6-(4-fluoro-3-methyl-phenyl)-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | yield: 80.1% | C(C=CC1=CC=CC=C1)N1N=C(C=C(C1=O)CN1CCN(CC1)C)C1=CC(=C(C=C1)F)C | C26H29FN4O
